US09399639B2
Step 3) 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl2-((tert-butoxycarbonyl)amino)-3-methylbutanoate
The title compound was prepared according to the procedure as described in Example 14 step 2 using N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.3 g, 0.61 mmol) in anhydrous DMF (2.5 mL), KOH (69 mg, 1.22 mmol) and a solution of 1-chloroethyl 2-((tert-butoxycarbonyl)amino)-3-methylbutanoate (172 mg, 0.61 mmol) in anhydrous DMF (0.5 mL). The crude product was purified by a silica gel column chromatography (PE/EtOAc (v/v)=4/1 to 3/1) to afford the title compound as orange oil (0.29 g, 65%). The title compound was characterized by 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.61 mmol, 0.3 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | KOH | 1.22 mmol, 69 mg | [OH-].[K+]
reactant | 1-chloroethyl 2-((tert-butoxycarbonyl)amino)-3-methylbutanoate | 0.61 mmol, 172 mg | C(C)(C)(C)OC(=O)NC(C(=O)OC(C)Cl)C(C)C | C12H22ClNO4
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl2-((tert-butoxycarbonyl)amino)-3-methylbutanoate | 0.29 g, 65% | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)N(C=C2C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O)C(C)OC(C(C(C)C)NC(=O)OC(C)(C)C)=O | C35H39ClF2N4O7S
